US04324893
1-Methyl-1,2-Dihydro-4-(4-Methyl-1-Piperazinyl)-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester
A stirred mixture of 5.2 g. (0.02 mole) of 4-chloro-1,2-dihydro-1-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester, 2.0 g. (0.02 mole) of N-methylpiperazine and 2.12 g. (0.02 mole) of sodium carbonate was heated under reflux for 5 hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was triturated with 50 ml. of a 20% aqueous sodium carbonate solution and was extracted with 50 ml. of ether. The ether layer was dried over magnesium sulfate, filtered, diluted with a few ml. of ethanol and was acidified with a saturated ethereal hydrochloric acid solution. The precipitate which formed was collected and was recrystallized from ethanol to afford 0.3 g. of product as the hydrochloride, hemihydrate, m.p. 231°-234° C. dec.

reactant | 4-chloro-1,2-dihydro-1-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 0.02 mole | C(C)OC(=O)C=1C(N(C2=NC=CC=C2C1Cl)C)=O | C12H11ClN2O3
reactant | N-methylpiperazine | 0.02 mole | CN1CCNCC1 | C5H12N2
reactant | sodium carbonate | 0.02 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloride | Cl | ClH
product | 1-Methyl-1,2-Dihydro-4-(4-Methyl-1-Piperazinyl)-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(N(C2=NC=CC=C2C1N1CCN(CC1)C)C)=O | C17H22N4O3
